US08912179B2
Step (i): Preparation of 2-(1-Cyclobutyl-piperidin-4-yloxy)-6,7-dihydro-4H-thiazolo[5,4-c]pyridine-5-carboxylic acid tert-butyl ester
1-Cyclobutyl-piperidin-4-ol (1.6 grams, 10 mmol) in tetrahydrofuran (20 mL) was treated with cooled and stirred suspension of sodium hydride (0.9 grams, 18 mmol) in tetrahydrofuran (20 mL) slowly over a period of 30 minutes; the reaction mixture was stirred for 1 hour. A solution of 2-Bromo-6,7-dihydro-4H-thiazolo[5,4-c]pyridine-5-carboxylic acid tert-butyl ester (3 grams, 9 mmol, obtained in preparation 1) in tetrahydrofuran (30 mL) was added drop wise over a period of 15 minutes and refluxed the reaction for 6 hours. Reaction mass was quenched with ice cold water and the product was extracted with ethyl acetate (3×50 mL). Combined organics were washed with water followed by brine and dried over anhydrous sodium sulphate. Organic volatiles were evaporated under vacuum. The residue was purified by flash chromatography (ethylacetate/n-hexane, 1/1) to obtain the title compound (2.0 grams).

reactant | 1-Cyclobutyl-piperidin-4-ol | 10 mmol, 1.6 grams | C1(CCC1)N1CCC(CC1)O | C9H17NO
reactant | sodium hydride | 18 mmol, 0.9 grams | [H-].[Na+]
reactant | 2-Bromo-6,7-dihydro-4H-thiazolo[5,4-c]pyridine-5-carboxylic acid tert-butyl ester | 9 mmol, 3 grams | C(C)(C)(C)OC(=O)N1CC2=C(CC1)N=C(S2)Br | C11H15BrN2O2S
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 2-(1-Cyclobutyl-piperidin-4-yloxy)-6,7-dihydro-4H-thiazolo[5,4-c]pyridine-5-carboxylic acid tert-butyl ester | 2.0 grams | C(C)(C)(C)OC(=O)N1CC2=C(CC1)N=C(S2)OC2CCN(CC2)C2CCC2 | C20H31N3O3S
